US05068445
EXAMPLE 5: DIPHENYL DISULPHIDE
To the same reactor, 220 g of thiophenol, 16 g of sulphur and 4 g of Amberlyst A 21 resin are added. The mixture is kept at ambient temperature while stirring. At the end of the evolution of hydrogen sulphide, the liquid is recovered. The analysis of which shows that it is wholly composed of diphenyl disulphide and excess thiophenol. The yield of diphenyl disulphide is 99% in relation to the sulphur added.

reactant | thiophenol | 220 g | C1(=CC=CC=C1)S | C6H6S
reactant | sulphur | 16 g | [S] | S
product | DIPHENYL DISULPHIDE | C1(=CC=CC=C1)SSC1=CC=CC=C1 | C12H10S2
